US07262212B2
2-Chloro-4-nitro-1H-imidazole (10 g, 67.79 mmol) and (R)-(−)-glycidyl tosylate (17.02 g, 74.58 mmol) were dissolved in acetonitrile (50 ml), sodium hydrogencarbonate (6.26 g, 74.15 mmol) was added to the solution, and the resulting mixture was stirred under reflux for 3.5 hours. The reaction mixture was allowed to return to room temperature. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=1/2) to afford (R)-2-chloro-1-[2-hydroxy-3-(4-methylbenzenesulfonyloxy)propyl]-4-nitroimidazole (16.9 g, yield 66%) as a light yellow oil.

reactant | 2-Chloro-4-nitro-1H-imidazole | 67.79 mmol, 10 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | (R)-(−)-glycidyl tosylate | 74.58 mmol, 17.02 g | S(=O)(=O)(OC[C@H]1CO1)C1=CC=C(C)C=C1 | C10H12O4S
reactant | sodium hydrogencarbonate | 74.15 mmol, 6.26 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (R)-2-chloro-1-[2-hydroxy-3-(4-methylbenzenesulfonyloxy)propyl]-4-nitroimidazole | 16.9 g, yield 66% | ClC=1N(C=C(N1)[N+](=O)[O-])C[C@H](COS(=O)(=O)C1=CC=C(C=C1)C)O | C13H14ClN3O6S
